************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_nand_15
* View Name:     schematic
* Netlisted on:  Oct 28 17:52:28 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_nand_15
* View Name:    schematic
************************************************************************

.SUBCKT std_nand_15 a b out
*.PININFO a:I b:I out:O
MM1 net19 b gnd! gnd! NMOS_VTL W=200n L=50n m=1
MM0 out a net19 gnd! NMOS_VTL W=200n L=50n m=1
MM3 out b vdd! vdd! PMOS_VTL W=90n L=50n m=1
MM2 out a vdd! vdd! PMOS_VTL W=90n L=50n m=1
.ENDS

