************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_nor_15
* View Name:     schematic
* Netlisted on:  Oct 28 20:20:06 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_nor_15
* View Name:    schematic
************************************************************************

.SUBCKT std_nor_15 a b out
*.PININFO a:I b:I out:O
MM3 out b gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM0 out a gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM2 out b net15 vdd! PMOS_VTL W=547.5n L=50n m=1
MM1 net15 a vdd! vdd! PMOS_VTL W=547.5n L=50n m=1
.ENDS

