************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC472_Lib
* Top Cell Name: gil_cell_mixer
* View Name:     schematic
* Netlisted on:  Feb  9 21:27:42 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC472_Lib
* Cell Name:    gil_cell_mixer
* View Name:    schematic
************************************************************************

.SUBCKT gil_cell_mixer VIF_n VIF_p VLO_n VLO_p VRF_n VRF_p
*.PININFO VLO_n:I VLO_p:I VRF_n:I VRF_p:I VIF_n:O VIF_p:O
MM3 VIF_p VLO_p net15 gnd! NMOS_VTL W=90n L=50n m=1
MM4 VIF_n VLO_p net8 gnd! NMOS_VTL W=90n L=50n m=1
MM5 VIF_p VLO_n net8 gnd! NMOS_VTL W=90n L=50n m=1
MM7 net15 VRF_n gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM6 net8 VRF_p gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM0 VIF_n VLO_n net15 gnd! NMOS_VTL W=90n L=50n m=1
MM2 VIF_p gnd! vdd! vdd! PMOS_VTL W=90n L=50n m=1
MM1 VIF_n gnd! vdd! vdd! PMOS_VTL W=90n L=50n m=1
.ENDS

