************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC472_Lib
* Top Cell Name: mixer
* View Name:     schematic
* Netlisted on:  Feb  9 16:41:04 2021
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC472_Lib
* Cell Name:    mixer
* View Name:    schematic
************************************************************************

.SUBCKT mixer VIF_n VIF_p VLO_n VLO_p
*.PININFO VLO_n:I VLO_p:I VIF_n:O VIF_p:O
MM3 VIF_p VLO_n gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM2 VIF_n VLO_p gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 VIF_p VLO_p vdd! vdd! NMOS_VTL W=90n L=50n m=1
MM0 VIF_n VLO_n vdd! vdd! NMOS_VTL W=90n L=50n m=1
.ENDS

