************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_inv_13_62x
* View Name:     schematic
* Netlisted on:  Nov  5 17:32:04 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_13_62x
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_13_62x in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=1.225u L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=1.94u L=50n m=1
.ENDS

