************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: std_inv_chain
* View Name:     schematic
* Netlisted on:  Nov  5 20:10:32 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_15
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_15 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=142.5n L=50n m=1
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_13_62x
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_13_62x in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=1.225u L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=1.94u L=50n m=1
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_3_69x
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_3_69x in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=332.5n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=525.00n L=50n m=1
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    std_inv_chain
* View Name:    schematic
************************************************************************

.SUBCKT std_inv_chain in out
*.PININFO in:I out:O
XI11 in inv_1_out / std_inv_15
XI13 inv_2_out out / std_inv_13_62x
XI12 inv_1_out inv_2_out / std_inv_3_69x
.ENDS

